US07238808B2
5-Chloro-thiophene-2-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
Prepared by general procedure III from commercially available 5-chloro-thiophene-2-sulfonyl chloride (1.0 g, 4.61 mmol) and 2-amino-2-methyl-1-propanol (1.23 g, 13.8 mmol) to give the title compound (0.96 g, 77%) as a white solid. MS (ISN) 268.1 [(M−H)−], mp 112° C.

reactant | 5-chloro-thiophene-2-sulfonyl chloride | 4.61 mmol, 1.0 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | 2-amino-2-methyl-1-propanol | 13.8 mmol, 1.23 g | NC(CO)(C)C | C4H11NO
product | 5-Chloro-thiophene-2-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 0.96 g, 77% | OCC(C)(C)NS(=O)(=O)C=1SC(=CC1)Cl | C8H12ClNO3S2
